US07759369B2
(b). (6-Cyano-5-methyl-2-pyridinyl)methyl acetate
To acetic anhydride (20 ml) at 120° was added 3,6-dimethyl-2-pyridine-carbonitrile 1-oxide (5.28 g) and the solution heated at 120° for 5 minutes then under reflux for 2 hours. After cooling the solution was added to ice (ca. 150 g) and the mixture neutralized with sodium bicarbonate. It was extracted with ether (170 ml then 2×75 ml) and the combined extracts washed with brine (60 ml), dried (MgSO4) and concentrated in vacuo. The residue was purified by Biotage chromatography eluting with 2:1 hexane:ethyl acetate to afford the title compound (3.62 g, 67%) as a pale yellow oil

reactant | 3,6-dimethyl-2-pyridine-carbonitrile 1-oxide | 5.28 g | CC1=C([N+](=C(C=C1)C)[O-])C#N | C8H8N2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
product | (6-Cyano-5-methyl-2-pyridinyl)methyl acetate | 3.62 g, 67% | C(C)(=O)OCC1=NC(=C(C=C1)C)C#N | C10H10N2O2
